US07534914B2
STEP 1. Ethyl 2,5-dichloronicotinate
To a solution of 2,5-dichloronicotinic acid (30 g, 0.16 mol) in toluene (100 ml) was added ethanol (50 ml) and conc. sulfuric acid (1 ml). The reaction mixture was heated at 130° C. for 3 days with stirring. Then the reaction mixture was cooled and poured into sat. sodium bicarbonate solution. The whole mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried (sodium sulfate), and concentrated to afford 34 g (quant.) of title compound:

reactant | 2,5-dichloronicotinic acid | 0.16 mol, 30 g | ClC1=C(C(=O)O)C=C(C=N1)Cl | C6H3Cl2NO2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2,5-dichloronicotinate | ClC1=C(C(=O)OCC)C=C(C=N1)Cl | C8H7Cl2NO2
